US06767909B2
N-(4,6-Dimethylpyrimidin-2-yl)-4-[(1-ethyl-1H-benzimidazol-2-ylmethyl)-amino]-benzenesulfonamide
32.4 mg (0,12 mmol) sulfamethazine and 36 mg (0.18 mmol) 1-ethyl-2-chloromethylbenzimidazole were dissolved in 4 ml methanol. 64 μl (0.44 mmol) triethylamine and catalytic amount of sodium iodide were added to the reaction mixture. Solution was stirred and refluxed overnight. The reaction mixture was then evaporated to dryness, and purified on silica using gradient elution (chloroform to 5% methanol in chloroform) to provide white crystals of the title compound, 10 mg (20%). 1H NMR (DMSO-d6, 500 MHz): 7.68 (2H, m), 7.60 (1H, m), 7.52 (1H, m), 7.22 (1H, m), 7.17 (1H, m), 7.00 (1H, br, s), 6.78 (3H, m), 6.60 (1H, br, s), 4.60 (2H, m), 4.30 (2H, q, 7.2 Hz), 2.18 (6H, s), 1.28 (3H, t, 7.2 Hz); MS (ESI+): m/z 437 (M+H)+.

reactant | sulfamethazine | 0,12 mmol, 32.4 mg | CC=1C=C(N=C(N1)NS(=O)(=O)C=2C=CC(=CC2)N)C | C12H14N4O2S
reactant | 1-ethyl-2-chloromethylbenzimidazole | 0.18 mmol, 36 mg | C(C)N1C(=NC2=C1C=CC=C2)CCl | C10H11ClN2
reactant | triethylamine | 0.44 mmol, 64 μl | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | N-(4,6-Dimethylpyrimidin-2-yl)-4-[(1-ethyl-1H-benzimidazol-2-ylmethyl)-amino]-benzenesulfonamide | CC1=NC(=NC(=C1)C)NS(=O)(=O)C1=CC=C(C=C1)NCC1=NC2=C(N1CC)C=CC=C2 | C22H24N6O2S
